US05461049
To a solution of α-bromo-2-dodecyltetrazoleacetic acid (5.0 g, 13.3 mmol) in dichloromethane (75 mL), cooled to -10° C., were added 2,6-diisopropylaniline (2.3 g, 12.9 mmol) and DCC (2.7 g, 13 mmol), respectively. The suspension was gradually warmed to room temperature and was stirred for 12 hours. The mixture was filtered and the filtrate was concentrated in vacuo leaving a yellow liquid. The crude product was purified using silica gel chromatography (elution with 10% ethyl acetate/90% hexane) to give (±)-N-(2,6-diisopropylphenyl) -2-(2-dodecyl-2H-tetrazol-5-yl)-2-bromo-acetamide (4.8 g, 65% ) as a colorless liquid which crystallized on standing;

reactant | α-bromo-2-dodecyltetrazoleacetic acid | 13.3 mmol, 5.0 g | BrC(C(=O)O)C=1N=NN(N1)CCCCCCCCCCCC | C15H27BrN4O2
reactant | 2,6-diisopropylaniline | 12.9 mmol, 2.3 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | DCC | 13 mmol, 2.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (±)-N-(2,6-diisopropylphenyl) -2-(2-dodecyl-2H-tetrazol-5-yl)-2-bromo-acetamide | 4.8 g, 65% | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(C(Br)C=1N=NN(N1)CCCCCCCCCCCC)=O | C27H44BrN5O
